US08048878B2
Synthesis of (6R*,9aS*)-6-(4-fluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one
A solution of 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one (744 mg) and tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride (116 mg) in methylene chloride (250 mL) was heated under reflux for two hours. The reaction solution was left to cool to room temperature and then concentrated. The residue was purified by silica gel column chromatography (elution solvent: heptane:ethyl acetate=4:1->ethyl acetate) to obtain 550 mg of the title compound. The property values of the compound are as follows.

reactant | 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-3-buten-1-one | 744 mg | FC1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(CC=C)=O | C17H20FNO
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | tricyclohexylphosphine[1,3-bis(2,4,6-trimethylphenyl)-4,5-dihydroimidazol-2-ylidene][benzylidene]ruthenium (IV) dichloride | 116 mg | CC1=CC(=C(C(=C1)C)N2CCN([CH-]2)C3=C(C=C(C=C3C)C)C)C.C1CCC(CC1)[PH+](C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | (6R*,9aS*)-6-(4-fluorophenyl)-3,6,7,8,9,9a-hexahydroquinolizin-4-one | 550 mg | FC1=CC=C(C=C1)[C@@H]1N2C(CC=C[C@@H]2CCC1)=O | C15H16FNO
